US07544697B2
Solid sodium hydride (60% dispersion in oil, 2.90 g, 72.3 mmol) was added in portions over 5 minutes to a stirred solution of 1-propanethiol (6.00 g, 78.8 mmol) in tetrahydrofuran (262 mL). After 15 minutes, a thick white suspension had formed. To the suspension was added 1-chloro-3-butanone (7.00 g, 65.7 mmol), which caused the reaction mixture to warm and a cloudy solution to form. After 30 minutes, the cloudy solution was partitioned between ethyl acetate (100 mL) and water (100 mL). The layers were separated and the organic layer was washed with saturated aqueous sodium bicarbonate (100 mL) and brine (100 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure to afford a pale brown oil. The crude product was purified by flash chromatography (silica gel, elution with 20% ethyl acetate in hexanes) to provide 9.0 g of 4-(propylthio)butan-2-one as a clear liquid.

reactant | sodium hydride | 72.3 mmol, 2.90 g | [H-].[Na+]
reactant | 1-propanethiol | 78.8 mmol, 6.00 g | C(CC)S | C3H8S
reactant | 1-chloro-3-butanone | 65.7 mmol, 7.00 g | ClCCC(C)=O | C4H7ClO
solvent | tetrahydrofuran | 262 mL | O1CCCC1 | C4H8O
product | 4-(propylthio)butan-2-one | 9.0 g | C(CC)SCCC(C)=O | C7H14OS
